US04900870
Preparation of 2-methylene-6,6-dimethyl-1-but-3-en-1-yl-cyclohexane
A further purification gave a product having b.p. 87°/2.66×102Pa. The product thus obtained was converted into gamma-damascone by isomerization by means of an acid treatment with p-toluenesulfonic acid.

reactant | gamma-damascone | C/C=C/C(=O)C1C(=C)CCCC1(C)C | C13H20O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-methylene-6,6-dimethyl-1-but-3-en-1-yl-cyclohexane | C=C1C(C(CCC1)(C)C)CCC=C | C13H22
